US04473586
1-aminomethyl-5,6-dimethoxy-1-hydroxy-1,2,3,4-tetrahydronaphthalene is reacted with the acid chloride of 4-chloro-2,6-dimethoxyphenoxy acetic acid. The resulting amide is reduced with diborane and dehydrated with HCl as described in Example 30 to obtain 1-[2(4-chloro-2,6-dimethoxyphenoxy)ethylaminomethyl]-5,6dimethoxy-3,4-dihydronaphthalene HCl.

reactant | 1-aminomethyl-5,6-dimethoxy-1-hydroxy-1,2,3,4-tetrahydronaphthalene | NCC1(CCCC2=C(C(=CC=C12)OC)OC)O | C13H19NO3
reactant | 4-chloro-2,6-dimethoxyphenoxy acetic acid | ClC1=CC(=C(OCC(=O)O)C(=C1)OC)OC | C10H11ClO5
reactant | diborane | B#B | B2
reactant | HCl | Cl | ClH
product | 1-[2(4-chloro-2,6-dimethoxyphenoxy)ethylaminomethyl]-5,6dimethoxy-3,4-dihydronaphthalene HCl | Cl.ClC1=CC(=C(OCCNCC2=CCCC3=C(C(=CC=C23)OC)OC)C(=C1)OC)OC | InChI=1S/C23H28ClNO5.ClH/c1-26-19-9-8-17-15(6-5-7-18(17)22(19)29-4)14-25-10-11-30-23-20(27-2)12-16(24)13-21(23)28-3;/h6,8-9,12-13,25H,5,7,10-11,14H2,1-4H3;1H
